US08981085B2
(R)-tert-Butyl 1-(5-bromo-3-(3-ethylureido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (0.130 g, 0.270 mmol) was placed in DCM (3 mL) at room temperature. TFA (1 mL) was then added. The reaction was stirred at room temperature for 1 hour and concentrated to dryness. The residue was then purified by reverse phase chromatography (Biotage SP4, C-18 12M+, 0-50% ACN in water). The resulting product was next dissolved in minimal DCM (with MeOH to aid solubility) and added to a stirring solution of 1M HCl in ether. The resulting solid was filtered, washed with ether and dried to give (R)-1-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-ethylurea hydrochloride (0.100 g, 81.5% yield) as a solid. 1H NMR (400 MHz, D2O) δ 8.27 (s, 1H), 7.27 (s, 1H), 3.86-3.83 (m, 1H), 3.56-3.54 (m, 1H), 3.48-3.45 (m, 1H), 3.26-3.21 (m, 2H), 3.04-2.99 (m, 2H), 2.09-2.06 (m, 1H), 1.81-1.70 (m, 2H), 1.57-1.55 (m, 1H), 0.94-0.90 (m, 3H). LCMS (APCI+) m/z 381, 383 (M+H)+.

reactant | (R)-tert-Butyl 1-(5-bromo-3-(3-ethylureido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.270 mmol, 0.130 g | BrC=1C(=C2C(=NC1)NC=C2NC(=O)NCC)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C20H29BrN6O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-ethylurea hydrochloride | 0.100 g, 81.5% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(=O)NCC | InChI=1S/C15H21BrN6O.ClH/c1-2-18-15(23)21-11-7-20-14-12(11)13(10(16)6-19-14)22-5-3-4-9(17)8-22;/h6-7,9H,2-5,8,17H2,1H3,(H,19,20)(H2,18,21,23);1H/t9-;/m1./s1
